US07696193B2
(2E)-1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-3-(dimethylamino)-2-propen-1-one (D53)
A mixture of 1-{6-[(3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}ethanone (E214) (186 mg, 0.55 mmol), dimethylformamide dimethyl acetyl (0.25 ml) and xylene (4 ml) was heated at reflux for 8 hours. The residue was diluted with toluene and concentrated in vacuo to afford the title compound (D53); MS (ES+) m/e 392 [M+H]+.

reactant | 1-{6-[(3-cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}ethanone | 0.55 mmol, 186 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)C(C)=O | C21H24N2O2
reactant | xylene | 4 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2E)-1-{6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinyl}-3-(dimethylamino)-2-propen-1-one | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)C(\C=C\N(C)C)=O | C24H29N3O2
